US09302991B2
<Step-1>: 2-amino-N-((5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)pyrimidine-4-carb oxamide
The title compound is prepared in 17% yield (43 mg, pale yellow oil) from (5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanamine hydrochloride (199 mg, 0.72 mmol, Amine-19) and 2-aminopyrimidine-4-carboxylic acid (100 mg, 0.72 mmol) by the similar manner in Step-1 of Example 8.

reactant | (5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanamine hydrochloride | 0.72 mmol, 199 mg | Cl.ClC=1C=C(C=NC1OCC(F)(F)F)CN
reactant | 2-aminopyrimidine-4-carboxylic acid | 0.72 mmol, 100 mg | NC1=NC=CC(=N1)C(=O)O | C5H5N3O2
product | 2-amino-N-((5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)pyrimidine-4-carb oxamide | 17% yield | NC1=NC=CC(=N1)C(=O)NCC=1C=NC(=C(C1)Cl)OCC(F)(F)F | C13H11ClF3N5O2
